Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
lactose
 
Attending: ___.
 
Chief Complaint:
Papillary thyroid cancer.

 
Major Surgical or Invasive Procedure:
Total thyroidectomy with central node dissection.

 
History of Present Illness:
This patient was incidentally found to have a ___ thyroid mass 
during a GI visit by ___. Ultrasound at ___ showed 
a 4 cm complex vascular ___ thyroid nodule. He was referred to 
Dr. ___ aspirated ___ thyroid mass in the office; 
and the cytology came back positive for papillary cancer. He 
subsequently underwent ultrasound by Dr. ___, 
whichshowed some plump cervical nodes on both sides, even though 
the tumor was only on the ___.  Cytology was negative. 
Thyroglobulin was traced positive and therefore, somewhat 
difficult to interpret, but seemingly unlikely he would have
bilateral metastases from this ___ lesion.  He did, 
however, have some central nodes seen on ultrasound.

He has intermittent dysphagia.  There is no known family history 
of thyroid malignancy or other endocrine neoplasia. There is no 
history of exposure to low dose ionizing radiation such as was 
formerly used for thymic enlargment, acne, ringworm, or chronic 
tonsillitis. 

He takes lamictal and testosterone 
He presents today for total thyroidectomy which was recommended 
and accepted.

 
Past Medical History:
PMH
Obstructive sleep apnea
Thyroid cancer

 
Family History:
no known family history of thyroid malignancy or other endocrine 
neoplasia.

 
Physical Exam:
GEN: AOx3 WN, WD in NAD
HEENT: NCAT, EOMI, anicteric.  Neck soft without evidence of 
hematoma, incision clean/dry/intact with Steri-Strips in place
CV: RRR
PULM: unlabored breathing with symmetric chest rise, no 
respiratory distress
ABD: soft, NT, ND, no mass, no hernia
EXT: WWP, no CCE, no tenderness, 2+ B/L ___

 
Pertinent Results:
___ 06:56AM BLOOD Calcium-9.___ with history of ___ papillary thyroid cancer s/p total 
thyroidectomy. He tolerated the procedure without complication. 
He was brought to the PACU for close monitoring before being 
transferred to the floor for continued observation. He remained 
hemodynamically stable at all times. Postoperatively he had 
significant throat pain which improved with oral pain 
medication. Patient endorsed some hoarseness, no difficulty 
breathing or speaking. POD #1, serum calcium level was normal 
9.2. He denied perioral numbness or peripheral paresthesias. 
Postoperatively,patient was started on thyroid hormone 
replacement, Levothyroxine 125 mcg daily. At time of discharge 
on POD #1 patient pain was well controlled, he was tolerating a 
diet,voiding independently, and ambulating without concern.  He 
was discharged home with follow-up instructions and verbalized 
good understanding.

 
Medications on Admission:
Medications
Lamictal 150 mg daily
Testopel 35 mg implant pellet 10 every year

 
Discharge Medications:
1.  Acetaminophen ___ mg PO Q6H:PRN Pain - Mild  
2.  Ibuprofen 600 mg PO Q8H:PRN pain 
RX *ibuprofen 600 mg 1 tablet(s) by mouth every eight (8) hours 
Disp #*21 Tablet Refills:*0 
3.  Levothyroxine Sodium 125 mcg PO DAILY 
RX *levothyroxine 125 mcg 1 tablet(s) by mouth once a day Disp 
#*30 Tablet Refills:*3 
4.  LamoTRIgine 150 mg PO DAILY  
5.  Testosterone Cypionate 75 mg implant EVERY YEAR  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Papillary thyroid cancer.

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Mr. ___,
You were admitted to ___ overnight for observation following 
your surgery.You did well postoperatively and were discharged 
home once you were eating, on oral medications, walking, and 
completing daily activities as normal. 
Medications: You were started on thyroid hormone medication, 
take as prescribed. For pain medication you may take 
acetaminophen (Tylenol) or ibuprofen (Motrin). You may restart 
all your usual home medications.

Your calcium at discharge is normal and no calcium supplement is 
needed. However, monitor for symptoms of low calcium: If you 
develop tingling or numbness around your mouth, fingertips or 
legs, this may be a sign of a low calcium and you should call 
our office. If you develop severe symptoms, please go to 
emergency room.

Wound care:You may shower normally. Allow warm soapy water to 
run over the wound, rinse and pat dry gently. There is no need 
to keep a dressing over the wound. Do not apply creams or 
ointments. Do not submerge the wound in a swimming pool or bath 
until cleared at your follow up visit. Do  not pull off the 
steri strip tapes--these will fall off by themselves over the 
next ___ weeks.

Diet:You may resume your regular home diet without restriction. 
You should use stick to foods that do not upset your stomach. 
You may need to start with small meals first and may not feel 
very hungry at first. This will improve over time. You may 
supplement your diet with protein shakes as needed if you do not 
feel you are taking in enough nutrition.

Activity:You may resume all of your normal home activities, 
except for straining or lifting heavy weight. We recommend you 
resume walking, exercise, bathing, per your normal regimen. 

Warning signs:
You should contact our clinic or return to the ED immediately if 
you experience any of the following signs or symptoms:
Fever above 100.5
Worsening pain
Worsening GI upset, nausea/vomiting, diarrhea
Change in the appearance of your incision, or redness, swelling, 
or change in drainage from your incision
Any other symptoms that concern you

You can contact our clinic at any time with questions or 
concerns. You should be seen in our clinic for follow up 
following your discharge from the hospital. 
 
Best wishes,
Your ___ Care Team

 
Followup Instructions:
___